US05236912
At room temperature, 17.1 g of 17β-acetoxy-17α-methylandrosta-4,6-dien-3-one [U.S. Pat. No. 3,033,752 (1962)] in 170 ml of toluene is combined with 100 ml of diethyl aluminum cyanide solution (1 mole in toluene). After 24 hours, the reaction mixture is introduced into a potassium sodium tartrate solution, diluted with ethyl acetate, and the mixture is stirred for 1 hour at room temperature, extracted with ethyl acetate, the organic phase is washed with water, dried, and concentrate under vacuum. The resultant crude product is allowed to react in 500 ml of methanol at room temperature with 360 mg of potassium carbonate, the mixture is concentrated under vacuum after 2.5 hours, diluted with ethyl acetate, washed with water, and dried. After the crude product has been chromatographed on silica gel with a methylene chloride (tert-butyl methyl ether) gradient, 13 g of 17β-acetoxy-17α-methyl-3-oxoandrost-4-ene-7α-carbonitrile is obtained, mp 211°-216° C. (from isopropyl ether).

reactant | 17β-acetoxy-17α-methylandrosta-4,6-dien-3-one | 17.1 g | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1C=CC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C | C22H30O3
reactant | diethyl aluminum cyanide | 1 mole, 100 ml | [C-]#N.C(C)[Al+]CC
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17β-acetoxy-17α-methyl-3-oxoandrost-4-ene-7α-carbonitrile | 13 g | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C#N)C | C23H31NO3
